US08709994B2
Ethylene glycol (15 mL, 0.27 mol, 1.2 eq), paratoluene sulfonic acid (430 mg, 1% w/w) and cyclohexane (50 mL) were charged into a 1 L three-necked round-bottom flask, equipped with a dean and stark, a reflux condenser and a mechanical stirrer. 3-(3-tert-butylphenyl)propanal (50.6 g, gc purity of 85%, 0.22 mol) was added dropwise at ambient temperature. After stirring for 2 h at reflux, the reaction mixture was cooled to ambient temperature and washed twice with water (50 mL), saturated aqueous NaHCO3, dried over magnesium sulphate and concentrated to give 2-[2-(3-tert-butylphenyl)ethyl]-1,3-dioxolane in the form of a pale yellow coloured oil (60 g, gc purity>84%; yield>95%). The material was used as such for the next step.

reactant | Ethylene glycol | 0.27 mol, 15 mL, 1.2 eq | C(CO)O | C2H6O2
reactant | paratoluene sulfonic acid | 430 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-(3-tert-butylphenyl)propanal | 0.22 mol, 50.6 g | C(C)(C)(C)C=1C=C(C=CC1)CCC=O | C13H18O
solvent | cyclohexane | 50 mL | C1CCCCC1 | C6H12
product | 2-[2-(3-tert-butylphenyl)ethyl]-1,3-dioxolane | yield>95% | C(C)(C)(C)C=1C=C(C=CC1)CCC1OCCO1 | C15H22O2
